US09428490B2
(Z)-Methyl 1-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acryloyl)-3-fluoroazetidine-3-carboxylate (0.01 g, 1.0 eq.) was dissolved in methanol:water (0.2 mL, 1:1), and LiOH (1.0 mg, 1.0 eq) was added. The reaction mixture was stirred at room temperature for 2 h. The reaction mixture was quenched with 10 mL of water and acidified with dilute HCl to pH 2-3. The aqueous layer was extracted with ethyl acetate (10 mL×3). The combined organic layers were then washed with brine, dried over sodium sulfate and concentrated under reduced pressure to afford 0.002 g of (Z)-1-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acryloyl)-3-fluoroazetidine-3-carboxylic acid. Yield (20.83%). 1H NMR (400 MHz, CDCL3) δ 8.92 (S, 1H), 8.54 (s, 2H), 8.29 (s, 1H), 7.45-7.42 (d, J=10.4, 1H), 6.00-5.98 (d, J=10.4 Hz, 1H), 3.73 (m, 4H).

reactant | (Z)-Methyl 1-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acryloyl)-3-fluoroazetidine-3-carboxylate | 0.01 g, 1.0 eq. | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)N1CC(C1)(C(=O)OC)F)(F)F | C18H13F7N4O3
reactant | water | 0.2 mL | O | H2O
reactant | LiOH | 1.0 mg, 1.0 eq | [Li+].[OH-]
solvent | methanol | CO | CH4O
product | (Z)-1-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acryloyl)-3-fluoroazetidine-3-carboxylic acid | 0.002 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)N1CC(C1)(C(=O)O)F)(F)F | C17H11F7N4O3
